US07842357B2
(4-Pentylcyclohexyl)acetaldehyde (30.1 g) was dissolved in diethyl ether (40 mL), to which cyclohexylamine (15.2 g) and potassium carbonate (12 g) were added, and the system was stirred at room temperature over night. The resulting suspension was filtered with Celite, and the filtrate was concentrated under reduced pressure. Cyclohexyl-(2-(4-pentylcyclohexyl)ethylidene)amine (40.6 g) in a yellow oily form thus obtained was used in the second step without purification.

reactant | (4-Pentylcyclohexyl)acetaldehyde | 30.1 g | C(CCCC)C1CCC(CC1)CC=O | C13H24O
reactant | cyclohexylamine | 15.2 g | C1(CCCCC1)N | C6H13N
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | Cyclohexyl-(2-(4-pentylcyclohexyl)ethylidene)amine | 40.6 g | C1(CCCCC1)N=CCC1CCC(CC1)CCCCC | C19H35N
